US06498165B1
2-[2-Phenylethylamino]-4-[benzimidazol-1-yl]pyrimidine
2-Methanesulfonyl-4-[benzimidazol-1-yl]pyrimidine was reacted with 2-phenylethylamine according to the procedure described in EXAMPLE 1, Step C to afford the title compound.

reactant | 2-Methanesulfonyl-4-[benzimidazol-1-yl]pyrimidine | CS(=O)(=O)C1=NC=CC(=N1)N1C=NC2=C1C=CC=C2 | C12H10N4O2S
reactant | 2-phenylethylamine | C1(=CC=CC=C1)CCN | C8H11N
product | 2-[2-Phenylethylamino]-4-[benzimidazol-1-yl]pyrimidine | C1(=CC=CC=C1)CCNC1=NC=CC(=N1)N1C=NC2=C1C=CC=C2 | C19H17N5
